US05554607
1-Ethyl-2-thioxo-3-(2,4,5-trimethylphenyl)-imidazolidin-4-one
The title compound was prepared by the procedure described in Example 16 using 17.7 g of 2,4,5-trimethylphenyl-isothiocyanate, 18.4 g of N-ethyl glycine, 20.2 g of triethyl amine, and 250 mL of chloroform. Crystallization from ethanol afforded the title compound (15.3g) as an off-white solid, m.p. 162°-164° C. Anal. Calcd. for. C14H18N2O S: C,64.09; H, 6.92; N, 10.68. Found: C, 64.21; H, 6.93; N, 10.80. Mass spectrum (EI, M.+) m/z 262.

reactant | 2,4,5-trimethylphenyl-isothiocyanate | 17.7 g | CC1=C(C=C(C(=C1)C)C)N=C=S | C10H11NS
reactant | N-ethyl glycine | 18.4 g | C(C)NCC(=O)O | C4H9NO2
reactant | triethyl amine | 20.2 g | C(C)N(CC)CC | C6H15N
solvent | chloroform | 250 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-Ethyl-2-thioxo-3-(2,4,5-trimethylphenyl)-imidazolidin-4-one | 15.3g | C(C)N1C(N(C(C1)=O)C1=C(C=C(C(=C1)C)C)C)=S | C14H18N2OS
